US07259266B2
Step 3. Preparation of Ethyl 6-chloro-5-Iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 47% aqueous HI (11 mL, 59 mmol) dissolved in DMSO (11 mL) was added dropwise at 35° C. a solution of ethyl 6-chloro-5-amino-2-(trifluoromethyl)-2H-chromene-3-carboxylate (3.8 g, 11.8 mmol) in a mixture of 11 mL of DMSO and potassium nitrite (1.63 g, 23.6 mmol) with stirring. The resulted mixture was stirred at 35° C. for 15 min, and then it was transferred into 150 mL of a solution of potassium carbonate (10 g) in ice water. The product was extracted with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium carbonate, 5% aqueous sodium hydrosulfite, and brine, dried over anhydrous magnesium sulfate. After removing the solvent, the residue was purified on silica gel column with 1:9 EtOAc/hexane. The product was obtained as 2.5 g light yellow solid. A small amount of the product was further purified on reverse phase HPLC. It gave an off-white solid. m.p=117.0-119.0° C. LC-MS (ES+): 433.2(M+1, 100); 1H NMR(CDCl3/400 MHz) 7.93(s,1H), 7.36(d, J=8.4 Hz, 1H), 6.91(d, J=8.4 Hz, 1H), 5.65(q, J=6.8 Hz, 1H), 4.33(m, 2H), 1.36(t, J=6.8 Hz, 3H). 19F NMR(CDCl3/400 Hz) −78.50(d, J=6.8 Hz). 13C NMR (CDCl3/400 MHz) 163.3, 152.3, 140.9, 133.6, 132.2, 124.7, 123.2(q, J=287.7 Hz), 119.4, 117.6, 104.5, 70.3(q, J=33.4 Hz), 62.0, 14.4. MS(EI+) 432.0(M+, 20), 363.0(M-CF3, 100). High resolution MS(EI+) m/z calc. for Cl3H9ClF3IO3: 431.9271 (M+), found: 431.9238.

reactant | HI | 59 mmol, 11 mL | I | HI
reactant | ethyl 6-chloro-5-amino-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 11.8 mmol, 3.8 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)N | C13H11ClF3NO3
reactant | potassium nitrite | 23.6 mmol, 1.63 g | N(=O)[O-].[K+]
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 11 mL | CS(=O)C | C2H6OS
solvent | DMSO | 11 mL | CS(=O)C | C2H6OS
product | Ethyl 6-chloro-5-Iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 2.5 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
